US08470819B2
Step A: Preparation of methyl 3-pyridin-3-ylbut-2-enoate (i-7a)
Sodium hydride (192 mg of a 60% wt. suspension, 4.80 mmol) was added in several portions to a stirred solution of trimethylphosphonoacetate (712 μL, 4.40 mmol) in THF (20.0 mL). After 5 min, 1-pyridin-3-ylethanone (440 μL, 4.00 mmol) was added dropwise, and the resulting mixture was heated to reflux. After 20 h, the reaction mixture was cooled to rt, poured into satd. aq. NH4Cl and extracted with EtOAc. The combined organics were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 0%-60% EtOAc/hexanes as eluent) afforded the title compound i-7a as a separable mixture of two isomers. m/z (ES) 178 (MH)+.

reactant | Sodium hydride | [H-].[Na+]
reactant | trimethylphosphonoacetate | 4.40 mmol, 712 μL | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 1-pyridin-3-ylethanone | 4.00 mmol, 440 μL | N1=CC(=CC=C1)C(C)=O | C7H7NO
reactant | THF | 20.0 mL | C1CCOC1 | C4H8O
product | methyl 3-pyridin-3-ylbut-2-enoate | N1=CC(=CC=C1)C(=CC(=O)OC)C | C10H11NO2
